US06667322B2
To a solution of (2R)-2H-chromen-2-ylmethyl 4-methylbenzenesulfonate (1.70 g, 55.00 mmol) in ethanol (100 mL) was added palladium on carbon (10 wt. %, 0.17 g) and the reaction mixture was shaken under an H2 atmosphere (50 psi) for 6 h. The reaction mixture was filtered (celite) and the solvent removed in vacuo to provide (2R)-3,4-dihydro-2H-chromen-2-ylmethyl 4-methylbenzenesulfonate (1.62 g, 95%) as a colorless oil which crystallized upon standing. [α]D25=−52.69 (c 10.06 in methanol, >97% ee); Rf=0.60 (silica, ethyl acetate:hexanes 2:3); Anal. Calcd. for C17H18O4S: C, 64.13; H, 5.70. Found: C, 63.90; H, 5.71.

reactant | (2R)-2H-chromen-2-ylmethyl 4-methylbenzenesulfonate | 55.00 mmol, 1.70 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC2=CC=CC=C2C=C1 | C17H16O4S
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.17 g | [Pd] | Pd
product | (2R)-3,4-dihydro-2H-chromen-2-ylmethyl 4-methylbenzenesulfonate | 1.62 g, 95% | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC2=CC=CC=C2CC1 | C17H18O4S
